US08802688B2
Step 3. 1′-(3-bromo-1H-pyrrolo[3,2-b]pyridine-6-carbonyl)-2-tert-butyl-4,6-dihydrospiro[indazole-5,4′-piperidin]-7(2H)-one
To a suspension of 3-bromo-1H-pyrrolo[3,2-b]pyridine-6-carboxylic acid hydrochloride (2.75 g, 9.91 mmol) and 2-tert-butyl-4,6-dihydrospiro[indazole-5,4′-piperidin]-7(2H)-one hydrochloride salt (2.95 g, 9.91 mmol) in dichloromethane (30 mL) was added triethylamine (5.52 mL, 39.6 mmol). N,N-dimethylformamide (5 mL) was then added, followed by 1-hydroxybenzotriazole (1.61 g, 11.9 mmol) and 1, (3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride (2.28 g, 11.9 mmol). The reaction was allowed to stir at room temperature for 60 hours. The reaction was diluted with ethyl acetate and washed with saturated aqueous sodium bicarbonate and brine. The organics were dried over magnesium sulfate, filtered, and concentrated. Purification by flash column chromatography (0-10% methanol/ethyl acetate) gave the title compound (3.39 g, 71%) as a pale brown solid. +ESI (M+1+H) 486.2; 1H NMR (400 MHz, CDCl3, δ): 10.05 (br. s., 1 H), 8.57 (d, J=1.8 Hz, 1 H), 7.87 (d, J=1.8 Hz, 1 H), 7.61 (d, J=2.7 Hz, 1 H), 7.44 (s, 1 H), 3.78 (br. s., 2 H), 3.51 (br. s., 2 H), 2.81 (s, 2 H), 2.65 (s, 2 H), 1.63 (s, 13 H).

reactant | 3-bromo-1H-pyrrolo[3,2-b]pyridine-6-carboxylic acid hydrochloride | 9.91 mmol, 2.75 g | Cl.BrC1=CNC=2C1=NC=C(C2)C(=O)O
reactant | 2-tert-butyl-4,6-dihydrospiro[indazole-5,4′-piperidin]-7(2H)-one hydrochloride salt | 9.91 mmol, 2.95 g | Cl.C(C)(C)(C)N1N=C2C(CC3(CCNCC3)CC2=C1)=O
reactant | triethylamine | 39.6 mmol, 5.52 mL | C(C)N(CC)CC | C6H15N
reactant | 1-hydroxybenzotriazole | 11.9 mmol, 1.61 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | (3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride | 11.9 mmol, 2.28 g | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 1′-(3-bromo-1H-pyrrolo[3,2-b]pyridine-6-carbonyl)-2-tert-butyl-4,6-dihydrospiro[indazole-5,4′-piperidin]-7(2H)-one | 3.39 g, 71% | BrC1=CNC=2C1=NC=C(C2)C(=O)N2CCC1(CC2)CC2=CN(N=C2C(C1)=O)C(C)(C)C | C23H26BrN5O2
